US08956999B2
To a suspension of 2-(4-chlorophenyl)thiazole-5-carbaldehyde (3.26 g, 14.6 mmol) in methanol (50 ml) is added the sodium borohydride (568 mg, 15 mmol) portionwise at room temperature. The reaction mixture is stirred at room temperature for 2 h. The reaction mixture is quenched with 50 ml of an aqueous saturated solution of ammonium chloride, extracted with dichloromethane (2×100 ml). The combined organic extracts are dried with magnesium sulphate, filtered and evaporated to dryness to give [2-(4-chlorophenyl)thiazol-5-yl]methanol (3.24 g).

reactant | 2-(4-chlorophenyl)thiazole-5-carbaldehyde | 14.6 mmol, 3.26 g | ClC1=CC=C(C=C1)C=1SC(=CN1)C=O | C10H6ClNOS
reactant | sodium borohydride | 15 mmol, 568 mg | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | [2-(4-chlorophenyl)thiazol-5-yl]methanol | 3.24 g | ClC1=CC=C(C=C1)C=1SC(=CN1)CO | C10H8ClNOS
